US06136800
b) 17-Difluoromethylene-7β-methyl-3-tetrahydropyranyloxy-estra-1,3,5(10)-triene
A solution of 2 g of difluoromethyldiphenylphosphine oxide in 55 ml of tetrahydrofuran is slowly mixed with 3.9 ml of 2 M lithium diisopropylamide solution at a bath temperature of -50° C, and it is stirred for 1 hour. Then, a solution of 1.15 g of 7β-methyl-3-tetrahydropyranyloxy-estra-1,3,5(10)-trien-17-one in 20 ml of tetrahydrofuran is slowly added, stirred for 15 minutes, slowly heated at a bath temperature of from -50° C. to 100° C. and refluxed for 2.5 hours. For working-up, it is diluted with ethyl acetate and water, suctioned off on Celite, rewashed with ethyl acetate, washed with water as well as with saturated sodium chloride solution, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with hexane/ethyl acetate/triethylamine. 1.3 g is obtained as colorless crystals with a melting point of 85-86° C., [α]D22 =-59-4° (c=0.535% in pyridine).

reactant | difluoromethyldiphenylphosphine oxide | 2 g | FC(F)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C13H11F2OP
reactant | lithium diisopropylamide | 2 M, 3.9 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 7β-methyl-3-tetrahydropyranyloxy-estra-1,3,5(10)-trien-17-one | 1.15 g | C[C@@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)OC1OCCCC1)=O | C24H32O3
solvent | tetrahydrofuran | 55 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 17-Difluoromethylene-7β-methyl-3-tetrahydropyranyloxy-estra-1,3,5(10)-triene | FC(=C1[C@]2(C)[C@@H](CC1)[C@@H]1[C@H](CC=3C=C(C=CC3[C@H]1CC2)OC2OCCCC2)C)F | C25H32F2O2
